.subckt sram node_v1 node_v2 BLL WL BLR vdd gnd 

.INCLUDE '22nm_MGK.pm'
.PARAM Lmin = 22n
.PARAM nWmin = 22n
.PARAM pWmin = 44n
.PARAM Ldiff = 44n


Mn1 node_v1 WL BLL 0 nmos W={nWmin} L={Lmin} AS={nWmin*Ldiff} AD={nWmin*Ldiff} PS={2*(Ldiff+nWmin)} PD={2*(Ldiff+nWmin)}
Mn2 0 node_v2 node_v1 0 nmos W={nWmin} L={Lmin} AS={nWmin*Ldiff} AD={nWmin*Ldiff} PS={2*(Ldiff+nWmin)} PD={2*(Ldiff+nWmin)}
Mp1 vdd node_v2 node_v1 vdd pmos W={pWmin} L={Lmin} AS={pWmin*Ldiff} AD={pWmin*Ldiff} PS={2*(Ldiff+pWmin)} PD={2*(Ldiff+pWmin)}

Mp2 node_v2 node_v1 vdd vdd pmos W={pWmin} L={Lmin} AS={pWmin*Ldiff} AD={pWmin*Ldiff} PS={2*(Ldiff+pWmin)} PD={2*(Ldiff+pWmin)}
Mn3 node_v2 node_v1 0 0 nmos W={nWmin} L={Lmin} AS={nWmin*Ldiff} AD={nWmin*Ldiff} PS={2*(Ldiff+nWmin)} PD={2*(Ldiff+nWmin)}
Mn4 BLR WL node_v2 0 nmos W={nWmin} L={Lmin} AS={nWmin*Ldiff} AD={nWmin*Ldiff} PS={2*(Ldiff+nWmin)} PD={2*(Ldiff+nWmin)}

.ends sram

