.subckt sram_read node_v1 node_v2 vdd gnd 

.INCLUDE '22nm_MGK.pm'
.PARAM Lmin = 22n
.PARAM nWmin = 22n
.PARAM pWmin = 44n
.PARAM Ldiff = 44n

Mp1 node_v2 node_v1 vdd vdd pmos W={pWmin} L={Lmin} AS={pWmin*Ldiff} AD={pWmin*Ldiff} PS={2*(Ldiff+pWmin)} PD={2*(Ldiff+pWmin)}
Mn1 node_v2 node_v1 0 0 nmos W={nWmin} L={Lmin} AS={nWmin*Ldiff} AD={nWmin*Ldiff} PS={2*(Ldiff+nWmin)} PD={2*(Ldiff+nWmin)}
Mn2 vdd vdd node_v2 node_v2 nmos W={nWmin} L={Lmin} AS={nWmin*Ldiff} AD={nWmin*Ldiff} PS={2*(Ldiff+nWmin)} PD={2*(Ldiff+nWmin)}

.ends sram_read

