.subckt and_4 node_a node_b node_c node_d node_out vdd gnd

x1 node_a node_b node_c node_d n1_out vdd gnd nand_4
x2 n1_out node_out vdd gnd inv

.ends and_4

