.subckt nand_3 node_a node_b node_c node_out vdd gnd

x1 node_a node_b n1_out vdd gnd nand_2
x2 n1_out n1_out n2_out vdd gnd nand_2
x3 n2_out node_c node_out vdd gnd nand_2

.ends nand_3


