.subckt nor_4 node_a node_b node_c node_d node_out vdd gnd

x1 node_a node_b n1_out vdd gnd nor_2
x2 node_c node_d n2_out vdd gnd nor_2
x3 n1_out n1_out n3_out vdd gnd nor_2
x4 n2_out n2_out n4_out vdd gnd nor_2
x5 n3_out n4_out node_out vdd gnd nor_2

.ends nor_4


